US06362188B1
6-Hydroxymethyl-1,2,3,4-tetrahydroquinoline
6-Hydroxymethylquinoline (1 g, 6.28 mmoles) (prepared by the method of: C. E. Kaslow and W. R. Clark, J. Org. Chem., 1953, 18, 55-58.) and methanol (200 mL) were placed in a Parr bomb and platinum (IV) oxide monohydrate (0.5 g, 2.04 mmoles) was added. The mixture was hydrogenated at 50 psi at 25° C. for 2 h. The catalyst was filtered off and washed with methanol. The combined filtrates were evaporated to dryness and the product was chromatographed on silica gel using 1.5% (10% conc. NH4OH in methanol)dichloromethane as the eluant to give the title compound (0.7044 g, 68%): CIMS: m/z 164.35 (MH+); δH (CDCl3) 1.93 (2H, m, 3-CH2) and 2.76 (2H, t, 4-CH2), 3.30 (2H, m, 2-CH2), 4.50 (2H, s, CH2OH), 6.45 (1H, d, Ar—H8), 6.96 ppm (2H, m, Ar—H5 and Ar—H7); δC (CDCl3) CH2: 22.1, 27.0, 42.0, 65.6; CH: 114.2, 126.4, 129.2; C: 121.5, 129.4, 144.5.

reactant | 6-Hydroxymethylquinoline | 6.28 mmoles, 1 g | OCC=1C=C2C=CC=NC2=CC1 | C10H9NO
catalyst | platinum (IV) oxide monohydrate | 2.04 mmoles, 0.5 g | O.[Pt](=O)=O
solvent | methanol | 200 mL | CO | CH4O
product | 6-Hydroxymethyl-1,2,3,4-tetrahydroquinoline | 0.7044 g, 68% | OCC=1C=C2CCCNC2=CC1 | C10H13NO
